US05064569
80.5 g (0.3 mol) of (S)-3,7-dimethyl-1-iodoctane are added dropwise to a solution of 16.2 g (0.3 mol) of sodium methylate and 24.8 g (0.1 mol) of 1-fluoro-2,5-di(4-hydroxyphenyl)-benzene in 150 ml of methanol at the boiling point. After 5 hours, the mixture is worked up in the customary manner. Recrystallization gives pure 1-fluoro-2,5-di-[4-(3,7-dimethyloctyloxy)-phenyl]-benzene.

reactant | (S)-3,7-dimethyl-1-iodoctane | 0.3 mol, 80.5 g | C[C@H](CCI)CCCC(C)C | C10H21I
reactant | sodium methylate | 0.3 mol, 16.2 g | C[O-].[Na+]
reactant | 1-fluoro-2,5-di(4-hydroxyphenyl)-benzene | 0.1 mol, 24.8 g | FC1=C(C=CC(=C1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C18H13FO2
solvent | methanol | 150 ml | CO | CH4O
product | 1-fluoro-2,5-di-[4-(3,7-dimethyloctyloxy)-phenyl]-benzene | FC1=C(C=CC(=C1)C1=CC=C(C=C1)OCCC(CCCC(C)C)C)C1=CC=C(C=C1)OCCC(CCCC(C)C)C | C38H53FO2
